### PR TITLE
Fujisaki : WIP Fujisaki

### PR DESCRIPTION
**Pull request by WilliamCoram**
First attempt at compact_quotient proof (Theorem 10.1). Think I have a method modulo sorries, feedback appreciated.

### CODE REVIEW

**Comment by WilliamCoram** [comment]
Now included some ideas for the finitedoublecoset proof

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 1]
```diff
@@ -169,8 +169,50 @@ lemma antidiag_mem_C {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
 end Aux
 
+def incl₂ : ringHaarChar_ker D_𝔸 → Prod D_𝔸 D_𝔸 :=
+  fun i => (i.1, i⁻¹.1)
+
+def M : Set (ringHaarChar_ker D_𝔸) := Set.preimage (incl₂ K D) (Aux.C K D)
+
+def MtoQuot : (ringHaarChar_ker D_𝔸) → (ringHaarChar_ker D_𝔸 ⧸
+    (MonoidHom.range (incl K D)).comap (ringHaarChar_ker D_𝔸).subtype) :=
+  fun a => Quot.mk _ a
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean:179]: This already has a name, namely Quot.mk . You might want to avoid making too many definitions, they clog the place up. Have you considered `abbrev` instead? Quot.mk will have a ton of API and if you make MtoQuot as a def then it's suddenly much harder to use any of it because Lean won't unfold the definition. If you make it an abbrev then Lean just prints it as MtoQuot but in the actual term it's still Quot.mk so things like simp will work much better.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 2]
```diff
@@ -169,8 +169,50 @@ lemma antidiag_mem_C {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+      -- I think this is what I need?
+      sorry
+    rw [M]
+    exact IsClosed.preimage h11 h12
+  have h2 : IsCompact (M K D) := by
+    -- exact IsClosed.isCompact h1
+    sorry
+  refine isCompact_univ_iff.mp ?_
+  have h3 : Set.SurjOn (MtoQuot K D) (M K D) Set.univ := by
+    sorry
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean:202]: I'm not sure this buys you any more than `(MtoQuot K D) '' (M K D) = Set.univ` which might be easier to work with.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 3]
```diff
@@ -169,8 +169,50 @@ lemma antidiag_mem_C {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+  have h4 : Continuous (MtoQuot K D) := by
+    exact { isOpen_preimage := fun s a ↦ a }
+  have h5 : IsClosed (Set.preimage (MtoQuot K D) (Set.univ)) := by
+    exact closure_subset_iff_isClosed.mp fun ⦃a⦄ a ↦ trivial
+  have h6 : IsCompact (Set.preimage (MtoQuot K D) (Set.univ)) := by
+    rw [IsCompact]
+    -- exact IsClosed.isCompact h5
+    sorry
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean:210]: I doubt this is true, this just seems to be the claim that D_A^(1) is compact, which is false in general (it's probably always false in fact).

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 4]
```diff
@@ -212,8 +254,25 @@ abbrev Dfx := (D ⊗[K] (FiniteAdeleRing (𝓞 K) K))ˣ
 noncomputable abbrev incl₁ : Dˣ →* Dfx K D :=
   Units.map Algebra.TensorProduct.includeLeftRingHom.toMonoidHom
 
+-- its breaking?? not sure what the difference to above is
+-- NumbeField.AdeleRing vs FiniteAdeleRing
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean:258]: If you need a topology on `D ⊗[K] NumberField.AdeleRing (𝓞 K) K` then make it an algebra over `NumberField.AdeleRing (𝓞 K) K` and then just give it the `NumberField.AdeleRing (𝓞 K) K`-module topology.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 5]
```diff
@@ -169,8 +169,50 @@ lemma antidiag_mem_C {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+      -- inclusion? so should be trivial by product topology (and subspace topology)
+      sorry
+    have h12 : IsClosed (Aux.C K D) := by
+      -- I think this is what I need?
+      sorry
+    rw [M]
+    exact IsClosed.preimage h11 h12
+  have h2 : IsCompact (M K D) := by
+    -- exact IsClosed.isCompact h1
+    sorry
```
[the remark this answers is not in the document]
Comment (WilliamCoram) [reply FLT/DivisionAlgebra/Finiteness.lean]: I think I have confused myself a bit here. Just to be clear, what compact space is M a subspace of?
Also it seems closed immersions are defined via quivers in mathlib - is using closed embeddings the same?

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 4 above)
Comment (WilliamCoram) [reply FLT/DivisionAlgebra/Finiteness.lean]: I realise this is the exposition from the start of the file - thus I have just removed the ``local``  part on the needed instances. Hopefully, this is an okay thing to do

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 5 above)
[the remark this answers is not in the document]
Comment (kbuzzard) [reply FLT/DivisionAlgebra/Finiteness.lean]: M is a subset of C. Oh I don't mean the algebraic geometry closed immersions, I am just talking topology, I mean X -> Y is a closed immersion if it's an injection, the image is closed, and the topology on X is just the pullback along the map of the one on Y (so a subset of X is closed iff the corresponding subset of Y is closed). Yeah looks like it's [Topology.IsClosedEmbedding](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Defs/Induced.html#Topology.IsClosedEmbedding)

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 4 above)
Comment (kbuzzard) [reply FLT/DivisionAlgebra/Finiteness.lean]: I think that if you remove the `local` then the instances will permeate through every file which imports this file, and I'm not sure we want this (although I also can't imagine what other topology one could put on that object). If you need the instances elsewhere in the file just move them out of the namespace? Local instances are scoped to namespaces/sections so the ones I put there are just in the namespace which I opened on line 37 and closed on line 193.. Just move them out of the namespace and keep them local if you want them elsewhere in the file.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 6]
```diff
@@ -12,6 +12,8 @@ import Mathlib.Algebra.Central.Defs
 import FLT.NumberField.AdeleRing
 import FLT.HaarMeasure.HaarChar.Ring
 
+set_option maxHeartbeats 1000000
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean:15]: I'd be reluctant to merge this -- it's better to figure out what is slow and to fix it. In fact it doesn't seem to do anything -- you have two errors in this PR whether or not you set this option. I would advise against pushing errors -- they will ensure that CI fails. Just sorry stuff and write erroring code in comments rather than pushing errors.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 7]
```diff
@@ -140,8 +140,8 @@ lemma T_finite : Set.Finite (T K D) := by
 
       -- Subgroup.isClosed_of_discrete
       sorry
-    · -- follows form D being discrete
-
+    ·
+      -- follows form D being discrete
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean:144]: from

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 8]
```diff
@@ -169,8 +169,105 @@ lemma antidiag_mem_C {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+def incl₂3 : ringHaarChar_ker D_𝔸 → Prod D_𝔸 D_𝔸 :=
+  fun u => (unitsEquivProdSubtype D_𝔸) (Subgroup.subtype (ringHaarChar_ker D_𝔸) u)
+
+def incl₂2 : ringHaarChar_ker D_𝔸 → Prod D_𝔸 D_𝔸 :=
+  fun u => let p := (Units.embedProduct D_𝔸) (Subgroup.subtype (ringHaarChar_ker D_𝔸) u)
+           (p.1, MulOpposite.unop p.2)
+
+def incl₂ : ringHaarChar_ker D_𝔸 → Prod D_𝔸 D_𝔸 :=
+  (fun i => (i.1, i⁻¹.1)).comp (Subgroup.subtype (ringHaarChar_ker D_𝔸))
+
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean:181]:
```
example : incl₂3 = incl₂2 := rfl
example : incl₂3 = incl₂ := rfl
```
They're all definitionally equal

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 9]
```diff
@@ -169,8 +169,105 @@ lemma antidiag_mem_C {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+abbrev MtoQuot : (ringHaarChar_ker D_𝔸) → (ringHaarChar_ker D_𝔸 ⧸
+    (MonoidHom.range (incl K D)).comap (ringHaarChar_ker D_𝔸).subtype) := Quot.mk _
+
 lemma compact_quotient : CompactSpace (ringHaarChar_ker D_𝔸 ⧸
-  (MonoidHom.range (incl K D)).comap (ringHaarChar_ker D_𝔸).subtype) := sorry
+    (MonoidHom.range (incl K D)).comap (ringHaarChar_ker D_𝔸).subtype) := by
+  have h4 : Continuous (MtoQuot K D) := by
+    exact { isOpen_preimage := fun s a ↦ a }
+  have h2 : IsCompact (M K D) := by
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean:191]: Why prove this here in the middle of a much bigger proof? Lean wants lots of short proofs, not one huge one. If you need compactness of M, prove it after the definition of M. And if you need that one of your incl2's is a closed embedding prove that after you've defined incl2. Every definition you make comes with a cost, and the cost is that you have to make the API for that definition, to make it usable. But you *definitely* don't want to be making the API in the middle of some other proof of something else! That way you can't reuse your work, and it makes proofs less modular and longer.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 10]
```diff
@@ -169,8 +169,105 @@ lemma antidiag_mem_C {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+    apply Topology.IsClosedEmbedding.isCompact_preimage
+    · refine Topology.IsClosedEmbedding.of_continuous_injective_isClosedMap ?_ ?_ ?_
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean:193]: Your goal at this point is `IsClosedEmbedding (incl₂3 K D)`. I am imagining that `ringHaarChar_ker R` (which is a term of type `Subgroup Rˣ`), when treated as a type, just inherits the subspace topology from `Rˣ`. So we have two maps here, one from the kernel to Rˣ and one from `Rˣ` to `R × R`. We'll have that the composite of two closed embeddings is a closed embedding, so this reduces the question to two easier questions: why is the inclusion a closed embedding and why is the map from `Rˣ` to `R × R` a closed embedding.

The inclusion from the kernel into `Rˣ` is just going to boil down to the statement that the kernel is closed, because it's bound to inherit the subspace topology. And the kernel is closed because `ringHaarChar` is continuous and {1} is closed because `Rˣ` is Hausdorff because `R` is Hausdorff. So that's the route you want to take.

As for why the map `Rˣ` to `R × R` is a closed embedding, this feels like it should be in the library already because it's not about things we defined like `ringHaarChar`, it's about things which were defined years ago. So look for it with `#loogle Units, Prod, TopologicalSpace` and we quickly find `Units.embedding_embedProduct` which says that it's an embedding. So all we have to do now is to prove that `Rˣ` is closed in `R × R`, and this isn't true for a general topological monoid but it is true for a Hausdorff one, so this is what you want to prove (and indeed I think I just PRed this recently so you might want to merge main and then find it.

All of these should be small lemmas with short proofs, which you can build up to give you the proof that M is compact.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 11]
```diff
@@ -169,8 +169,105 @@ lemma antidiag_mem_C {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+            obtain ⟨b, hb1, hb2⟩ := ha
+
+            sorry
+        · unfold incl₂3
+          simp only [Subgroup.subtype_apply, unitsEquivProdSubtype_apply_coe]
+          sorry
+    · exact Aux.C_compact K D
+  have h3 : (MtoQuot K D) '' (M K D) = Set.univ := by
+    ext x
+    refine ⟨by intro hx; simp, ?_ ⟩
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean:258]: Clearly this is somehow just wasting time, because everything is a subset of univ, so there should be a lemma which saves you this time, and it seems to be `Set.eq_univ_iff_forall` (discovered with `rw?`). Looks like
```
  have h3 : (MtoQuot K D) '' (M K D) = Set.univ := by
    rw [Set.eq_univ_iff_forall]
    rintro ⟨a, ha⟩ 
    ...
```
is what you're looking for.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 12]
```diff
@@ -169,8 +169,105 @@ lemma antidiag_mem_C {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+  fun u => let p := (Units.embedProduct D_𝔸) (Subgroup.subtype (ringHaarChar_ker D_𝔸) u)
+           (p.1, MulOpposite.unop p.2)
+
+def incl₂ : ringHaarChar_ker D_𝔸 → Prod D_𝔸 D_𝔸 :=
+  (fun i => (i.1, i⁻¹.1)).comp (Subgroup.subtype (ringHaarChar_ker D_𝔸))
+
+def M : Set (ringHaarChar_ker D_𝔸) := Set.preimage (incl₂3 K D) (Aux.C K D)
+
+abbrev MtoQuot : (ringHaarChar_ker D_𝔸) → (ringHaarChar_ker D_𝔸 ⧸
+    (MonoidHom.range (incl K D)).comap (ringHaarChar_ker D_𝔸).subtype) := Quot.mk _
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean:185]: This is a bad move. There are at least two functions from G to G/H which are more idiomatic than the completely generic `Quot.mk` (which goes from X to X / ~). The first is `QuotientGroup.mk` and the second is simply the coercion `↑`. Introducing `Quot.mk` will force Lean to start explicitly writing the equivalence relation corresponding to "I am in the same coset as you" which will inevitably make things messier. The target of `Quot.mk` is `Quot r`, which is syntactically totally different to `G / H`.

Where you get stuck at the end of the proof your goal is of the form (ν : G / H) = (c * ν : G / H), except that you have exploded everything by using `Quot` and made the goal kind of unreadable. How about

```
abbrev MtoQuot (a : ringHaarChar_ker D_𝔸) : (ringHaarChar_ker D_𝔸 ⧸
    (MonoidHom.range (incl K D)).comap (ringHaarChar_ker D_𝔸).subtype) := a
```
? Looking through the API for `QuotientGroup.mk` (just after the definition) I see `QuotientGroup.eq` which should be how to finish the proof.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 13]
```diff
@@ -169,8 +169,105 @@ lemma antidiag_mem_C {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+      obtain ⟨a, ha⟩ := x
+      obtain ⟨c, hc, ν, hν, eq, h31⟩ := Aux.antidiag_mem_C K D ha
+      simp only [Subgroup.comap_subtype, Set.mem_image, Subtype.exists]
+      refine ⟨ν, hν, h31, ?_ ⟩
+      simp_rw [MtoQuot, Subgroup.comap_subtype, eq]
+      rw [Quot.eq]
+      unfold QuotientGroup.leftRel
+
+
+      sorry
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean:269]: Obviously at this point the goal has become unreadable, because you have been using `Quot` and unfolding things, which is definitely not what you want to do. If you had "kept control" in the proof then the goal at this point should be `↑⟨ν, hν⟩ = ↑⟨c * ν, ha⟩` where the up-arrow is the map from `G` to the space of cosets `G / H`. Recall here that `H` is the image of `incl` and you have a proof that `c` is in this image.

But now it looks to me like you're in trouble, because clearly the lemma you want to use next (I found it by reading the API for `QuotientGroup.mk` i.e. reading the statements of all the theorems just after the definition of this function in mathlib) is `QuotientGroup.eq`, which says `↑a = ↑b ↔ a⁻¹ * b ∈ H` and that inverse is on the wrong side for you. To put it another way, your goal is `νH = cνH` and what you want to happen next is that the c cancels into H but it doesn't because it's not `νcH`. Are you sure you've got the maths right? I'm not sure this goal is provable.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 14]
```diff
@@ -169,8 +169,105 @@ lemma antidiag_mem_C {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+        · unfold incl₂3
+          simp only [Subgroup.subtype_apply, unitsEquivProdSubtype_apply_coe]
+          sorry
+    · exact Aux.C_compact K D
+  have h3 : (MtoQuot K D) '' (M K D) = Set.univ := by
+    ext x
+    refine ⟨by intro hx; simp, ?_ ⟩
+    · intro hx
+      obtain ⟨a, ha⟩ := x
+      obtain ⟨c, hc, ν, hν, eq, h31⟩ := Aux.antidiag_mem_C K D ha
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean:261]:
```suggestion
      obtain ⟨c, hc, ν, hν, rfl, h31⟩ := Aux.antidiag_mem_C K D ha
```
Always use the rfl trick, make things as simple as possible as quickly as possible.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 15]
```diff
@@ -212,19 +309,175 @@ abbrev Dfx := (D ⊗[K] (FiniteAdeleRing (𝓞 K) K))ˣ
 noncomputable abbrev incl₁ : Dˣ →* Dfx K D :=
   Units.map Algebra.TensorProduct.includeLeftRingHom.toMonoidHom
 
+variable [MeasurableSpace (D ⊗[K] NumberField.AdeleRing (𝓞 K) K)]
+  [BorelSpace (D ⊗[K] NumberField.AdeleRing (𝓞 K) K)]
+
+def iso₁ : (D ⊗[K] NumberField.AdeleRing (𝓞 K) K)ˣ ≃*
+    Prod (D ⊗[K] NumberField.InfiniteAdeleRing K)ˣ (Dfx K D) := by
+  simp_rw [NumberField.AdeleRing, Dfx]
+  have h1 : D ⊗[K] (NumberField.InfiniteAdeleRing K × FiniteAdeleRing (𝓞 K) K) ≃
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean:318]: You'll never get anywhere with a `have` here: `have` is used for proofs and `≃` is data (it doesn't say "it's isomorphic to...", it says "the isomorphism is..." and `have` promptly forgets the isomorphism).

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 16]
```diff
@@ -212,19 +309,175 @@ abbrev Dfx := (D ⊗[K] (FiniteAdeleRing (𝓞 K) K))ˣ
...
+    -- DirectSum.addEquivProd
+    -- TensorProduct.directSumRight
+
+    sorry
+  have := Units.mapEquiv h1
+  apply MulEquiv.prodUnits at this
+  sorry
+
+def rest₁ : ringHaarChar_ker D_𝔸 → Dfx K D :=
+  fun a => (iso₁ K D) a.val |>.2
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean:329]: It's not clear to me that making definition after definition is a wise idea in general. Every definition clogs the system up. Sure abbreviate things if you're doing paper calculations, but every time you make a definition you should be making API for the definition, and here you make no API and immediately go on to make another definition. Definitions should be few and far between.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 17]
```diff
@@ -212,19 +309,175 @@ abbrev Dfx := (D ⊗[K] (FiniteAdeleRing (𝓞 K) K))ˣ
...
+
 theorem NumberField.FiniteAdeleRing.DivisionAlgebra.units_cocompact :
     CompactSpace (Dfx K D ⧸ (incl₁ K D).range) := by
-  sorry
+  have h1 : Continuous (α K D) := by
+    unfold α rest₁
+    refine Continuous.comp' ?_ ?_
+    · exact { isOpen_preimage := fun s a ↦ a }
+    ·
+      -- this is certainly true by isomorphism and topology on RHS -- may need to explicitely show?
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean:346]: No, this is not true (yet). If you `simp [iso₁]` the goal reduces to  `Continuous fun a ↦ ((sorry sorry) ↑(Quotient.out a)).2` so basically this function is not even defined, so you can't prove anything about it.

**Review by kbuzzard — COMMENTED** [review]
I've reviewed about half of the PR, hopefully this is enough to keep you busy!

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 6 above)
Comment (WilliamCoram) [reply FLT/DivisionAlgebra/Finiteness.lean:15]: WIll do. I never intended for this to be merged anyway, its just to store my work and allow you to see where I am at. The maxHeartbeats were increased as simp wasnt finding anything and I wanted to test further - it will be removed when there is an actual PR.

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 9 above)
Comment (WilliamCoram) [reply FLT/DivisionAlgebra/Finiteness.lean:191]: Sure. When working through problems I try and prove everything together - which is maybe the wrong idea - then when cleaning for a PR I would separate them out.

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 13 above)
Comment (WilliamCoram) [reply FLT/DivisionAlgebra/Finiteness.lean:269]: I agree that I think something is wrong - we should be wanting to the right relation (as the idea of the proof is $$D^\times \backslash D^{(1)}$$ is compact - thus the $$c$$ should be on the right. At least that is if I am understanding and following everything correctly.

Comment (WilliamCoram) [reply FLT/DivisionAlgebra/Finiteness.lean:269]: I think we should be wanting the right relation so really it should be $$H \nu =  H c \nu$$ - which would be fine.

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 9 above)
Comment (kbuzzard) [reply FLT/DivisionAlgebra/Finiteness.lean:191]: When working through problems I always think "hmm, is my current goal actually something which should be an earlier lemma?" and if the answer is "yes" then I state the lemma earlier in the file, and then prove my goal using the earlier lemma, giving me a nice short proof, and then I start working on the earlier lemma instead. We want lots of nice short proofs not one long one, and my workflow generates them automatically. It also encourages me to find good names for my lemmas along the way (I don't want to write a short proof with `exact foo` in it because then I know it's still not actually finished; a short proof finishing with `exact [correct name of earlier lemma which I haven't actually proved yet]` is actually done and ready for merging.

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 13 above)
Comment (kbuzzard) [reply FLT/DivisionAlgebra/Finiteness.lean:269]: Yes you're absolutely right, you're in trouble because *I* stated the lemma incorrectly! And it looks like you will indeed have to use `Quot`. But I would still recommend against unfolding things unless you temporarily want a look at how they've been defined. `rightRel` should have some API which will be what you need.

**Comment by kbuzzard** [comment]
What is the status of this PR? Are you going to close it in favour of #617?
